Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
omeprazole / oxycodone
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
Portosystemic shunt and embolization ___
 
History of Present Illness:
___ w/ ___ cirrhosis (c/b EV, diuretic-controlled ascites, HE, 
___ s/p TACE ___, DM2, CKD ___ ___, first degree AV 
delay, HFpEF, who is referred from clinic with c/f constipation, 
jaundice and encephalopathy. 

Family states that the patient initially became confused over 
the past couple of weeks, which her husband feels may be from
underlying progressive dementia. The patient has been paranoid 
about her children moving away, confused about how many BMs she 
is having daily, and occasionally incontinent. It also seems 
that she does not always take her medications as prescribed, 
although nether she nor her husband could quantify how many 
doses she misses. The patient's husband feels that her confusion 
has acutely worsened over the last 2 weeks due to a UTI, for 
which the patient had a course of cipro (completed 7-day course 
on ___. She has also been feeling more tired over the past 
week, which her husband feels was a side effect of the cipro. 
She also notes some abdominal pain and constipation, intermixed 
with loose stools (denies diarrhea). Denies melena, dark stools, 
or bloody stools. Endorses nausea and vomiting ___ daily (small 
amounts) w/o hematemesis, for the past few days. Says her ___ 
edema is improved from baseline. Denies HA, fevers, chills, CP, 
SOB, abdominal pain, abdominal distension, dysuria. Occasionally 
dizzy/lightheaded on standing, which has been a new issue over 
the last week. 

The patient's daughter states that she believes her mother is 
taking her lactulose as prescribed, but is unsure regarding the
number of bowel movements she has been having. Otherwise, only 
notable new medication is levothyroxine.

In the ED initial vitals: T 96.6 HR 46 BP 105/44 RR 16 100% RA 
- Exam notable for: Oriented to person, place, not date (___), 
+ asterixis, lower extremity edema R > L (baseline)
- Labs notable for: wbc 7.2, hgb 13.1, plt 65 ___ ___, K 4.5, 
Cr 2.1 ___ ___, INR 1.7 (at baseline), AST 66, ALT 39, tbili 
3.9
(baseline ___, UA w/o leuk, nitr, fingerstick glucose 42
- Imaging notable for: CXR no acp, RUQUS w/o e/o ascites, focal 
lesions, but limited visualization of liver lots of bowel gas.
AXR w/ nonobstructive bowel gas pattern.
- Consults: Hepatology recommended infectious work-up, hold 
diuretics, treatment for HE.
- Patient was given: Lactulose 30 mL x2, rifaximin 550 mg x1, 
dextrose IV

 
Past Medical History:
___ cirrhosis c/b esophageal varices and liver lesion; gastric 
ulcer; HTN; ocular hypertension; macular hole of left eye; DM 
type II w/stage 3 CKD; bilateral nonproliferative retinopathy; 
AV block, Mobitz 1; thrombocytopenia;  morbid obesity; varicose 
veins; psoriasis; osteoarthritis; sciatica; osteoarthrosis;
bilateral pseudophakia; postmenopausal bleeding; anxiety

 
Social History:
___
Family History:
Mother                BREAST CANCER                             
Brother  Living       ESOPHAGEAL CANCER    ___           
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: ___ 1708 Temp: 98.0 PO BP: 95/59 L Lying HR: 55 RR: 18 
O2 sat: 98% O2 delivery: RA  
GENERAL: NAD, Inattentive, pleasant   
HEENT: AT/NC, EOMI, PERRL, mildly icteric sclera, MMM  
HEART: bradycardic, regular rate, S1/S2, no murmurs, gallops, or 
rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles, decreased bibasilar breath 
sounds  
ABDOMEN: obese, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: 2+ pitting edema b/l 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox2 (oriented to name, place, not to time), 
inattentive, ___ strength in UE and ___, moving all 4 extremities 
with purpose. (+) asterixis, mild tremor 
SKIN: warm and well perfused, chronic venous stasis change on ___ 
b/l

DISCHARGE PHYSICAL EXAM:
========================
VS:24 HR Data
    Temp: 97.9 (Tm 98.2), BP: 110/58 (92-112/46-66), HR: 68
(63-68), RR: 18, O2 sat: 99% (97-99), O2 delivery: RA  
General: Alert and oriented to person, knows she is in a 
hospital though intermittently forgets. Speaks clearly, though 
forgets words or sometimes looses thought mid-sentence. + 
asterixis mild and stable.
HEENT: Sclera anicteric. No cervical lymphadenopathy.
Pulm: Normal work of breathing. Lungs clear to auscultation 
bilaterally. No crackles, wheezes or rhonchi 
CV: RRR. Normal S1 and S2. No murmurs, gallops or rubs. Palpable 
___ and DP pulses bilaterally. 
Abd: Mildly distended. Soft, non-tender, no rebound or guarding 
Ext: 1+ pedal edema bilaterally to mid-shin.
Neuro: CN2-12 in tact, no focal neuro deficits. mental status as
above.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 05:55PM BLOOD WBC-8.8 RBC-4.10 Hgb-13.2 Hct-39.1 MCV-95 
MCH-32.2* MCHC-33.8 RDW-19.1* RDWSD-65.6* Plt Ct-79*
___ 05:55PM BLOOD Neuts-74.4* Lymphs-16.0* Monos-6.5 
Eos-1.9 Baso-0.5 Im ___ AbsNeut-6.54* AbsLymp-1.41 
AbsMono-0.57 AbsEos-0.17 AbsBaso-0.04
___ 05:55PM BLOOD ___ PTT-34.9 ___
___ 05:55PM BLOOD Glucose-113* UreaN-32* Creat-2.1* Na-133* 
K-4.8 Cl-96 HCO3-13* AnGap-24*
___ 05:55PM BLOOD ALT-39 AST-66* AlkPhos-100 TotBili-3.9*
___ 05:55PM BLOOD Albumin-2.9* Calcium-10.2 Phos-3.7 Mg-2.1

NOTABLE INTERVAL LABS:
=====================
___ 03:55PM BLOOD Hapto-<10*
___ 06:09AM BLOOD Hapto-<10*
___ 02:56PM BLOOD %HbA1c-4.5 eAG-82
___ 02:56PM BLOOD TSH-16*
___ 04:33AM BLOOD T4-2.5* T3-44* calcTBG-0.72* 
TUptake-1.39* T4Index-3.5* Free T4-0.6*

MICROBIOLOGY:
==============
__________________________________________________________
___ 9:27 am URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 7:25 pm BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 12:03 am URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 8:24 am BLOOD CULTURE      2 OF 2. 
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH.

___ 5:44 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___
   C. difficile PCR (Final ___: 
      NEGATIVE. 

___ 8:33 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

___ 4:00 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

___ 9:27 am URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:
========
RENAL U.S. (___)
Normal renal ultrasound.

MR HEAD W/O CONTRAST (___)
1. Study is moderately degraded by motion.
2.  No acute intracranial abnormality, with no definite evidence 
of acute infarct.
3.  Paranasal sinus disease and trace bilateral nonspecific 
mastoid fluid, as described.

CT HEAD W/O CONTRAST (___)
No evidence acute intracranial process.

ABDOMEN (SUPINE ONLY) (___)
Dobhoff tube terminating in the stomach.  New small bowel 
dilatation and mild colonic distension.  Findings are much more 
suggestive of ileus than obstruction.  Follow-up radiographs 
could be considered, however.

PORTAL VEIN EMBO (___):
Successful portal vein recanalization and TIPS placement along 
with large portal-renal shunt embolization.

RENAL U.S. (___)
Normal renal ultrasound.

DUPLEX DOPP ABD/PEL (___)
1. Patent TIPS
2. Coarsened nodular hepatic architecture.  No concerning liver 
lesion identified.
3. Splenomegaly.  Scant trace ascites.

DISCHARGE LABS:
===============
___ 06:06AM BLOOD WBC-7.1 RBC-2.92* Hgb-9.4* Hct-29.0* 
MCV-99* MCH-32.2* MCHC-32.4 RDW-20.9* RDWSD-74.6* Plt Ct-62*
___ 06:06AM BLOOD ___ PTT-70.2* ___
___ 06:06AM BLOOD Glucose-156* UreaN-35* Creat-1.8* Na-136 
K-3.9 Cl-100 HCO3-22 AnGap-14
___ 06:06AM BLOOD ALT-19 AST-31 LD(LDH)-272* AlkPhos-106* 
TotBili-4.5*
___ 06:06AM BLOOD Albumin-3.7 Calcium-9.6 Phos-3.9 Mg-1.8
 
Brief Hospital Course:
Patient Summary for Admission:
Ms. ___ is a ___ w/ NASH cirrhosis (c/b EV, 
diuretic-controlled ascites, HE,___ s/p TACE ___, DM2, CKD 
___ ___, first degree AV delay, HFpEF, who was referred from 
clinic with c/f constipation and encephalopathy. 

ACUTE MANAGEMENT:
=================
#NASH Cirrhosis
#Hepatic Encephalopathy  
#Altered mental status
On admission, per her husband/nursing her confusion was 
significantly worse compared to baseline and had started acutely 
several days prior. Thorough neuro work-up found no acute CNS 
pathology including MRI brain ___ without definite stroke and 
EEG completed without evidence of subclinical seizures. Broad 
infectious workup was unrevealing although patient was treated 
for urinary tract infections x2 during admission with 
ceftriaxone no improvement in mental status (urine culture 
notably negative). Found to have portosystemic shunt on MRI 
(___) which likely contributed to AMS which was embolized ___ 
by Interventional Radiology. Though following embolization, pt 
continued to have confusion. Per discussion with daughter, she 
noted some changes over previous several months. MOCA was 
completed on ___ score of 9 when patient was alert and 
interactive, suggesting cognitive deficits at baseline 
contributing to decline. Dobhoff was placed though fell out 
before being advanced and patient was able to take adequate 
nutrition independently. Given patient had difficulty tolerating 
dobhoff and was eating, dobhoff was not re-placed. Lactulose and 
rifaximin continued throughout admission to address component of 
HE. At time of discharge Ms. ___ was able to orient to person 
and place and intermittently time. She was still able to 
complete most of her ADLs. 

___ on CKD ___ hypovolemia
#Contrast-Induced Nephropathy
Pt has CKD with baseline Cr 1.5-1.6. On admission, Cr 2.1 and 
peaked at 2.6 within two days of admission. Initially Likely 
pre-renal due to low PO intake and was responsive to fluids, 
downtrended to 1.5 were it remained stable for a week. At this 
point, patient had portal vein embolization following which 
there was a contrast-induced ATN. Cr began rising ___ hrs post 
procedure and peaked at 3.9. Nephrology was consulted and 
etiology of insult likely contrast induced nephropathy. She was 
treated with 2 days of 100g albumin with down trending of Sr Cr 
with likely resolution of ATN. Sodium bicarb was started to 
mitigate renal injury. Home diuretics were held given renal 
injury.

#Nausea
#Prolonged QTc
She is not generally nauseous but she did endorse an episode of 
nausea w/o vomiting early in the admission. Nausea potentially 
___ to underlying cirrhosis. However, Zofran, or any other 
QTc-prolonging agents, were avoided 
i/s/o QTC 510 from EKG on ED, and 480 on repeat. The remainder 
of admission, she was not nauseous though had limited appetite 
at times.   

#s/p In-hospital fall
#Weakness
Occurred on ___ pm, VSS, no changes in mental status, NCCTH 
negative for acute process. She had no further falls during the 
hospital course. She had been evaluated by ___ on ___ who 
recommended discharge to ___ rehab.

#UTI
On ___, UA showed large ___ though Urine Cx was negative. Given 
the patient was having significant confusion she completed a 
5-day course of CTX. On ___, UA was possibly contaminated 
(epithelial cells present), though WBC >182 and her confusion 
had been waxing and waning, so she was restarted on CTX 5-day 
course, end date ___.

CHRONIC MANAGMENT:
==================
# GIB/VARICES
EGD performed by Dr. ___ ___, w/ 2 cords of Grade I 
varices seen in the distal esophagus and gastroesophageal 
junction. She is planned for repeat EGD in 8 months.  However, 
her home nadolol was held in the setting of bradycardia and ___.

# ASCITES
No history of therapeutic paracenteses, no history of SBP on 
diagnostic paracentesis. On admission she had minimal ascites, 
with no tappable pocket. Her home spironolactone and furosemide 
were held in the setting of ___. 

# COAGULOPATHY
INR fluctuated between 1.9-2.1 during hospitalization (baseline 
of 1.5-1.7). Though, she had no symptoms of bleeding. She was 
given an IV Vit K challenge (10mg x 3 days (___) with 
response of 2.1 -> 1.6.

#Hypothyroidism (stable)
On admission her TSH was decreased to 16 from 29 on ___ 
(outpatient Atrius lab) on 50 mg levothyroxine daily. As above, 
medication non-adherence may be significant contributor to her 
hypothyroid, and this condition could certainly have been a 
contributor to her confusion, fatigue and general 
decompensation. However, given that she reliable received her 
levothyroxine during the admission and did not have a correlated 
improvement in her mental status, it is unlikely to be a primary 
etiology.

===========================  
 TRANSITIONAL ISSUES:  
 - New Meds:  Sodium bicarbonate 1300mg BID
 - Stopped/Held Meds:  Nadolol 20mg daily, Furosemide 20mg 
daily, Spironolactone 50mg daily, Metformin 100mg 
 - Changed Meds: Rifaximin increased to 550mg BID
 - Post-Discharge Follow-up Labs Needed:  3x weekly chemistry, 
LFTs, CBC
 - Discharge weight:  220.2lb

[] Given ongoing resolution of her renal injury, Ms. ___ will 
require 3x weekly laboratory draws (chemistry, CBC, LFTs) which 
can be sent to Dr. ___ in the ___ fax number 
___
[] Sodium bicarbonate started while inpatient given renal injury 
1300mg BID, this should be discontinued if sodium bicarbonate is 
greater than 24 and Sr Cr normal
[] Home diuretics: Furosemide 20mg and Spironolactone 50mg were 
held on discharge and can be restarted when Sr Cr 1.6 or sooner 
by outpatient Hepatologist.
[] Home Nadolol was held given renal injury and can be restarted 
as needed by outpatient Liver team.
[] Patient will require formal neurocognitive testing done as 
outpatient to assess for underlying dementia, to be referred by 
PCP follow discharge from rehab
[] Ms. ___ may benefit from repeat portosystemic shunt 
embolization, she will require ___ follow up, to be arranged by 
Interventional Radiology department.
[] Given changing renal function, Metformin was held at time of 
discharge.

# CODE:  Full Code
# CONTACT:  ___ 
Relationship: Husband 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Furosemide 20 mg PO BID 
3. glimepiride 4 mg oral BID 
4. Lactulose 15 mL PO Q6H:PRN confusion 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. MetFORMIN XR (Glucophage XR) 1500 mg PO DAILY 
7. Nadolol 20 mg PO DAILY 
8. nystatin 100,000 unit/gram topical ASDR 
9. Sertraline 50 mg PO DAILY 
10. Spironolactone 50 mg PO DAILY 
11. Rifaximin 200 mg PO BID 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY  
2.  Sodium Bicarbonate 1300 mg PO BID 
RX *sodium bicarbonate 650 mg 2 tablet(s) by mouth twice a day 
Disp #*20 Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY  
4.  Lactulose 30 mL PO Q4H confusion  
5.  Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
6.  Aspirin 81 mg PO DAILY  
7.  glimepiride 4 mg oral BID  
8.  Levothyroxine Sodium 50 mcg PO DAILY  
9.  nystatin 100,000 unit/gram topical ASDR  
10.  Sertraline 50 mg PO DAILY  
11. HELD- Furosemide 20 mg PO BID  This medication was held. Do 
not restart Furosemide until you see your liver doctor
12. HELD- MetFORMIN XR (Glucophage XR) 1500 mg PO DAILY  This 
medication was held. Do not restart MetFORMIN XR (Glucophage XR) 
until you see your PCP
13. HELD- Nadolol 20 mg PO DAILY  This medication was held. Do 
not restart Nadolol until your liver doctor feels your blood 
pressure is ok for the medicine
14. HELD- Spironolactone 50 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until you see your liver 
doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
___ CIRRHOSIS
Acute Kidney Injury 
Altered Mental Status

SECONDARY DIAGNOSIS:
====================
Hepatic Encephalopathy
Chronic Kidney Disease
Hypothyroidism
History of Variceal bleeding

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 You were admitted to the hospital because concern related to 
confusion
 
 WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 - You had a MRI of your brain that showed no stroke or bleed 
and had an EEG that showed no specific changes.
 - You underwent an embolization that may have been contributing 
to your confusion. This was completed by the Interventional 
Radiology Department
 - You had an injury to your kidney related to the contrast used 
for the embolization. Fortunately, your kidneys showed recovery 
within a few days and continued to improve throughout the end of 
your stay.
 - You improved and were ready to leave the hospital.  

 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Take all of your medications as prescribed (listed below)  
 - Keep your follow up appointments with your doctors  
 - Please continue to eat as much as you can of a high protein 
and low salt diet. Have a Carnation shake with each meal. 
 - If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

 It was a pleasure participating in your care. We wish you the 
best!  
 - Your ___ Care Team  
 
Followup Instructions:
___